US08357707B2
Intermediate S: (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid amide
A solution of (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid benzyl ester (1 g) in 880 ammonia (5 ml) was stirred for 18 h then evaporated and triturated with Et2O to give the title compound as a white solid. 1H-NMR (d6-DMSO, 400 MHz): 9.15 (s, br, 1H), 8.04 (s, 1H), 7.63 (s, 1H), 5.56 (s, 1H), 4.40 (s, 1H), 4.27-4.16 (m, 1H), 3.27 (d, 1H), 3.02 (d, 1H), 2.33 -2.19 (m, 1H), 1.89-1.76 (m, 1H).

reactant | (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid benzyl ester | 1 g | C(C1=CC=CC=C1)OC(=O)[C@H]1NC[C@@H](C1)O | C12H15NO3
reactant | ammonia | 5 ml | N | H3N
product | (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid amide | O[C@@H]1C[C@H](NC1)C(=O)N | C5H10N2O2
